US04424346
Periodate oxidations. The polysaccharide (0.3 mM galactose equivalents) was dissolved in phosphate buffer (20 ml) as before and 1-propanol (1 ml) was added followed by aqueous solutions (2 ml) of sodium metaperiodate (0.23 mM/mol hexose unit for guaran and 0.17 mM/mol hexose unit for locust bean gum). The oxidation was conducted at 5° C. in the dark for 15 hr after which it was stopped by addition of ethylene glycol (1 ml). When the oxidation was carried out in smaller solution volumes (~8 ml) the same ropy gels were obtained as in the case of galactose oxidase treatments. The dialdehyde products were isolated after dialysis (3 d).

reactant | Periodate | I(=O)(=O)(=O)[O-]
reactant | sodium metaperiodate | 2 ml | I(=O)(=O)(=O)[O-].[Na+]
reactant | ethylene glycol | 1 ml | C(CO)O | C2H6O2
solvent | phosphate | 20 ml | P(=O)([O-])([O-])[O-]
solvent | 1-propanol | 1 ml | C(CC)O | C3H8O
product | galactose | O=C[C@H](O)[C@@H](O)[C@@H](O)[C@H](O)CO | C6H12O6
